Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
sudden onset disequilibrium
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
The patient is a ___ year old ___ man with a history of HTN,
HLD, diet controlled DM, presenting with acute onset of
disequlibrium yesterday.

The patient was in his usual state of health yesterday. He was
making dinner and set out salads on the table. He had 1 sip of
wine and then sat down and within a few minutes he had onset of
dizziness and sweating. He states he lost his appetite and only
was able to eat 2 bites of food. He got up to walk inside and
noted that he was very unsteady on his feet; he had to hold onto
the walls to get inside. When he laid down he felt slightly
better but still felt dizzy and sweaty. Denies frank vertigo or
presyncope, but states the dizzieness felt like a rocking
sensation. His wife (who is a ___) took his vitals and noted
his BP was 140/92 and pulse was 52. HE did not have CP, SOB, or
stomach pain at that time. Four hours later he got up out of bed
and felt slightly better wlthough still felt that he was not
steady on his feet. He felt that his head was heavy, both
bifrontall and occipitally. He felt worse with standing and more
comfortable lying down. He slept last night and woke up this
morning, but still noted he felt unsteady on his feet and very
tired and drained, not like himself, so he came to the ED.

The patient has a distant history of headaches, but has not had
one for ___ years. He previously took excedrin for these. 
These
were severe bifrontal HAs and did not feel like this current
episode.

On neurologic review of systems, the patient endorses headache,
denies lightheadedness, or confusion.
Denies difficulty with producing or comprehending speech.
Denies loss of vision, blurred vision, diplopia, vertigo,
tinnitus, hearing difficulty, dysarthria, or dysphagia.
Denies muscle weakness.
Denies loss of sensation.
Denies bowel or bladder incontinence or retention.
Endorses difficulty with gait as above.

On general review of systems, the patient denies fevers, rigors,
night sweats, or noticeable weight loss.
Denies chest pain, palpitations, dyspnea, or cough.
Denies nausea, vomiting, diarrhea, constipation, or abdominal
pain.
 
Past Medical History:
- HTN
- HLD
- DM2
 
Social History:
___
Family History:
Mother - heart problems. Father - cancer
 
Physical ___:
ADMISSION and DISCHARGE EXAM:
Physical Examination:
VS 98.7 62 127/85 20 100%
General: NAD, lying in bed comfortably. 
Head: NC/AT, no conjunctival icterus, no oropharyngeal lesions 
Neck: Supple, no nuchal rigidity, no meningismus

Neurologic Examination:

- Mental Status - 
Awake, alert, oriented x 3. Attention to examiner easily 
attained
and maintained. Concentration maintained when recalling months
backwards. Recalls a coherent history. Structure of speech
demonstrates fluency with full sentences, intact repetition, and
intact verbal comprehension. Content of speech demonstrates
intact naming (high and low frequency) and no paraphasias. 
Normal
prosody. No dysarthria. Verbal registration and recall ___. No
evidence of hemineglect. No left-right agnosia.

- Cranial Nerves -
I. not tested
II. Equal and reactive pupils (3mm to 2mm). Visual fields were
full to finger counting.  
III, IV, VI. smooth and full extraocular movements without
diplopia or nystagmus.  
V. facial sensation was intact, muscles of mastication with full
strength
VII. face was symmetric with full strength of facial muscles
VIII. hearing was intact to finger rub bilaterally.  
IX, X. symmetric palate elevation and symmetric tongue 
protrusion
with full movement.
XI. SCM and trapezius were of normal strength and volume.

- Motor -
Muscule bulk and tone were normal. No pronation, no drift. No
tremor or asterixis.
  Delt   Bic  Tri ECR Fext Fflx IP   Quad   Ham   TA   Gas
L  5      5    ___    5    5      5     5    5     5
R  5      5    ___    5    5      5     5    5     5

- Sensation -
Intact to light touch, no extinction to DSS. Proprioception
intact in the great toes. Decreased cold sensation on the L
forarm s/p surgery with nerve damage in that arm (chronic). 

- DTRs -
 Bic    Tri   ___   Quad   Gastroc
L 2      2      2      3        2
R 2      2      2      3        2
Plantar response flexor bilaterally.

- Cerebellar -
No dysmetria with finger to nose and HTS testing bilaterally.
Negative Head Impulse Test.

- Gait -
Normal initiation. Narrow base. Normal stride length and arm
swing. Mild difficulty with tandem gait. +Unterberger (rotates 
30
degrees to the R).
 
Pertinent Results:
==============
ADMISSION LABS
==============
___ 02:20PM BLOOD WBC-6.8 RBC-5.12 Hgb-16.1 Hct-43.6 MCV-85 
MCH-31.4 MCHC-36.9* RDW-13.4 Plt ___
___ 02:20PM BLOOD Neuts-68.8 ___ Monos-3.8 Eos-2.6 
Baso-0.7
___ 06:09AM BLOOD ___ PTT-41.2* ___
___ 02:20PM BLOOD Glucose-125* UreaN-17 Creat-0.9 Na-139 
K-4.0 Cl-104 HCO3-24 AnGap-15
___ 02:20PM BLOOD ALT-27 AST-24 AlkPhos-60 TotBili-1.1
___ 02:20PM BLOOD Lipase-27
___ 02:20PM BLOOD cTropnT-<0.01
___ 02:20PM BLOOD Albumin-4.6
___ 02:20PM BLOOD ASA-NEG Acetmnp-NEG Bnzodzp-NEG 
Barbitr-NEG Tricycl-NEG
___ 07:10PM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.0 Leuks-NEG
___ 07:10PM URINE bnzodzp-NEG barbitr-NEG opiates-NEG 
cocaine-NEG amphetm-NEG oxycodn-NEG mthdone-NEG

==============
DISCHARGE LABS
==============
___ 06:09AM BLOOD WBC-5.1 RBC-4.69 Hgb-14.6 Hct-40.1 MCV-86 
MCH-31.1 MCHC-36.3* RDW-13.4 Plt ___
___ 06:09AM BLOOD Glucose-93 UreaN-18 Creat-0.9 Na-144 
K-3.5 Cl-106 HCO3-28 AnGap-14
___ 06:09AM BLOOD CK(CPK)-53
___ 06:09AM BLOOD CK-MB-1 cTropnT-<0.01
___ 06:09AM BLOOD Calcium-9.0 Phos-3.3 Mg-2.1 Cholest-PND
___ 06:09AM BLOOD %HbA1c-5.8 eAG-120
___ 06:09AM BLOOD Triglyc-PND HDL-PND
___ 06:09AM BLOOD TSH-PND

=======
IMAGING
=======
CT HEAD WITHOUT CONTRAST - ___
1.  No definite evidence of acute intracranial process although 
a 
subcentimeter hypodense focus in the left frontal lobe is 
nonspecific.  
Differential considerations include a small chronic lacunar 
infarct or 
possibly enlarged perivascular space which would be a normal 
variant; subacute infarct is not excluded, however.  Correlation 
with clinical presentation is suggested and if needed clinically 
MR may be of use. 
2.  Small of calcified extra-axial mass suggesting meningioma.  
Follow-up MR evaluation is recommended. 

CTA HEAD AND NECK - ___
There is no evidence of flow limiting stenosis in the cervical 
and  intracranial vessels. Mild narrowing of the mid right 
vertebral artery at the C4/C5 level (series 2, image 136 through 
149), is most likely secondary to a combination of 
atherosclerotic disease and right greater than left degenerative 
changes in this region, and felt to less likely represent a 
dissection. Slight irregularity of the left internal carotid 
artery just distal to its origin (series 2, image 98), most 
likely related to motion artifact. Enlarged multinodular thyroid 
left lobe greater than right, which should be evaluated with non 
emergent. Mildly ectatic ascending aorta measuring up to 4.1 cm. 
Final read depending 3D reformats. 

MR HEAD W/O CONTRAST, MRA NECK W AND W/O CONTRAST - ___
No evidence of acute infarction. Patent vertebral and internal 
carotid 
Preliminary Reportarteries without evidence of dissection. 17 x 
9 mm right frontal extra-axial mass consistent with a 
meningioma. 
 
Brief Hospital Course:
___ M w PMHx HTN, HLD who presented with sudden onset 
disequilibrium and diaphoresis. Symptoms improved markedly after 
4hrs, and the patient was virtually asymptomatic after 24hrs. He 
did have +neuro exam findings: +HIT and +Unterberger to the R. 
NCHCT with no acute abnormality. CTA does show a prominent 
posterior circulation with dolichoectasia of the L vertebral. 
MRI negative for acute stroke - though he does have a R frontal 
meningioma that is newly visualized (unrelated to presentation). 
Recommend MRI with and without contrast in 6months to assess for 
interval growth.
Most likely diagnosis is a peripheral vestibulopathy though the 
exact etiology is not clear (infectious vs post-infectious vs 
other). Will discharge home with outpatient ___ PRN.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. albuterol sulfate 90 mcg/actuation inhalation Q4H:PRN cough, 
wheeze, shortness of breath 
2. Viagra (sildenafil) 100 mg oral DAILY 
3. Simvastatin 20 mg PO QPM 
4. valsartan-hydrochlorothiazide 160-25 mg oral DAILY 
5. Acetaminophen 325 mg PO Q12H:PRN pain 
6. Aspirin 81 mg PO DAILY 
7. Excedrin Extra Strength (aspirin-acetaminophen-caffeine) 
250-250-65 mg oral PRN headache 
8. Vitamin D 1000 UNIT PO DAILY 
9. Fish Oil (Omega 3) 1000 mg PO DAILY 

 
Discharge Medications:
1. Acetaminophen 325 mg PO Q12H:PRN pain 
2. Aspirin 81 mg PO DAILY 
3. Fish Oil (Omega 3) 1000 mg PO DAILY 
4. Simvastatin 20 mg PO QPM 
5. Vitamin D 1000 UNIT PO DAILY 
6. albuterol sulfate 90 mcg/actuation inhalation Q4H:PRN cough, 
wheeze, shortness of breath 
7. Excedrin Extra Strength (aspirin-acetaminophen-caffeine) 
250-250-65 mg oral PRN headache 
8. valsartan-hydrochlorothiazide 160-25 mg oral DAILY 
9. Viagra (sildenafil) 100 mg oral DAILY 
10. Outpatient Physical Therapy
balance training

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary: peripheral vestibulopathy of unclear etiology
Seconday: HTN, HLD

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___, 
You were admitted with symptoms of disequilibrium that have 
slowly improved. Your head CT was normal and the MRI did not 
show any evidence of an acute stroke. We believe that the cause 
of your symptoms was due to a problem in the middle ear 
(vestibular system). The cause of this problem is uncertain - it 
could be caused by a direct infection or as a consequence of a 
previous infection. The majority of these cases have a benign 
course and we expect you to recover well. We have provided you 
with a prescription for outpatient physical therapy to get 
additional balance training.
Please resume all of your previous medications. It was a 
pleasure caring for you during this hospitalization.
Please follow up as directed below.
 
Followup Instructions:
___